* J:\Julia\Documentos\SpaceBee\Electronics\Power\BreakBoard\BreakBoard2.asc
V1 N017 0 3.6
R1 N002 N006 1
R2 N006 0 3.3
M1 N010 N005 0 0 NMOS
M2 N011 N014 0 0 NMOS
M3 N012 N015 0 0 NMOS
M4 N013 N016 0 0 NMOS
M5 N009 N007 0 0 NMOS
V2 N001 0 14.8
S1 N002 N017 N008 0 SW
S3 N014 N006 N021 0 SW
S4 N015 N006 N019 0 SW
S5 N016 N006 N020 0 SW
V3 N008 0 PULSE(0 5 10 1n 1n 5 10 1)
V4 N004 0 PULSE(0 -5 0 1n 1n 4 20 1)
V5 N003 0 PULSE(0 2.7 0 1n 1n 30 10 1)
V6 N021 0 PULSE(0 5 12 1n 1n 30 20 1)
V7 N019 0 PULSE(0 5 18 1n 1n 30 10 1)
V8 N020 0 PULSE(0 5 24 1n 1n 30 10 1)
R3 N001 N009 10k
R4 N001 N010 1
R5 N001 N011 1
R6 N001 N012 1
R7 N001 N013 1
XU1 NC_01 N005 N003 NC_02 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 MP_10 NC_11 0 NC_12 0 ADG1633
M6 N007 N004 N006 N006 AO3423
.model NMOS NMOS
.model PMOS PMOS
.lib J:\Julia\Documentos\LTspiceXVII\lib\cmp\standard.mos
.model MD D IS=5.54492e-16 RS=0.0100362 N=0.839457 BV=100 +IBV=0.00025 EG=1.2 XTI=2.86651 TT=9.23639e-06 +CJO=4.16691e-10 VJ=0.5 M=0.449578 FC=0.5 RDS 3 1 4e+06 RD 9 1 0.0502902 RG 2 7 4.82531 D2 4 5 MD1 * Default values used in MD1: * RS=0 EG=1.11 XTI=3.0 TT=0 * BV=infinite IBV=1mA
.model SW SW(Ron=1p Roff=100G Vt=.5 Vh=0)
.tran 36
.lib ADG.lib
.backanno
.end
